US06316437B1
Step C: Preparation of (+/−)-1-tert-butoxycarbonylamino-5-chloro-indane-1-carboxylic acid
To a solution of (+/−)-1-amino-5-chloro-indane-1-carboxylic acid (292 mg, 1.38 mmol) in water (4 mL) and tetrahydrofuran (8 mL) containing triethylamine (0.2 mL, 1.43 mmol) was added di-tert-butyl dicarbonate (370 mg, 1.7 mmol). The reaction mixture was stirred at ambient temp. for 18 hours and then diluted with ethyl acetate. Dilute aqueous hydrochoric acid was added and the organic layer separated, dried (anhydrous sodium sulfate), and filtered and the solvent concentrated under vacuum. The residue was triturated with hexane to give the crystalline title compound.

reactant | (+/−)-1-amino-5-chloro-indane-1-carboxylic acid | 1.38 mmol, 292 mg | NC1(CCC2=CC(=CC=C12)Cl)C(=O)O | C10H10ClNO2
reactant | triethylamine | 1.43 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.7 mmol, 370 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochoric acid | Cl | ClH
solvent | water | 4 mL | O | H2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+/−)-1-tert-butoxycarbonylamino-5-chloro-indane-1-carboxylic acid | C(C)(C)(C)OC(=O)NC1(CCC2=CC(=CC=C12)Cl)C(=O)O | C15H18ClNO4
